US07867629B2
Dissolving 27 g (83 mmol) of crude 2-bromo-4′-iodo acetophenone thus obtained and 8.0 g (85 mmol) of 2-aminopyridine into 200 milliliter of ethanol, adding 10 g of sodium hydrogen carbonate, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and ethanol, thereby obtaining 21 g of 2-(4-iodophenyl)-imidazo [1,2-a] pyridine (yield: 82%).

reactant | 2-bromo-4′-iodo acetophenone | 83 mmol, 27 g | BrCC(=O)C1=CC=C(C=C1)I | C8H6BrIO
reactant | 2-aminopyridine | 85 mmol, 8.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogen carbonate | 10 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 200 milliliter | C(C)O | C2H6O
product | 2-(4-iodophenyl)-imidazo [1,2-a] pyridine | 21 g, yield: 82% | IC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9IN2
